US04803286
Step A: Preparation of 4H-2,3,5,6-tetrahydro-3-carbomethoxy-3-(2-methoxy)ethylthiopyran-4-one
To a solution of 5.3 g (25 mmol) of potassium enolate of 4H-2,3,5,6-tetrahydro-3-carbomethoxythiopyran-4-one in 50 ml DMSO, was added 3.47 g (25 mmol) of 2-bromoethyl methyl ether. The solution was stirred under N2 at room temperature for 4 days. The reaction mixture was poured into 500 ml H2O and extracted three times with ethyl acetate. The combined ethyl acetate solution was washed with water; 5% NaOH; H2O and brine; dried over magnesium sulfate, filtered and concentrated in vacuo to give about 5 g crude product. Chromatographed through a pressure column eluting with 10% ethyl acetate-n-hexane to give 2.49 g of the title compound.

reactant | 2,3,5,6-tetrahydro-3-carbomethoxythiopyran-4-one | C(=O)(OC)C1CSCCC1=O | C7H10O3S
reactant | 2-bromoethyl methyl ether | 25 mmol, 3.47 g | COCCBr | C3H7BrO
reactant | H2O | 500 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 2,3,5,6-tetrahydro-3-carbomethoxy-3-(2-methoxy)ethylthiopyran-4-one | 2.49 g | C(=O)(OC)C1(CSCCC1=O)CCOC | C10H16O4S
